* EESchema Netlist Version 1.1 (Spice format) creation date: 12/12/2013 1:45:34 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
U2  CLK CLK ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? N-000032 N-000028 UARTUC_RTS ? UARTUC_CTS ? N-000024 N-000027 ? ? ? ? ? ? ? ? CLK CLK +3.3V +3.3V ? ? ? ? N-000043 SYS_RESETn UARTUC_TX ? UARTUC_RX ? ? ? ? ? I2C2_SCL I2C2_SDA ? ? ? ? ? ? ? ? MOSI MISO SCLK ? ? CLK ? ? ? ? ? ? ? ? CLK CLK CLK CLK BEAGLEBONE_BLACK		
U1  /A0 /A1 /A2 CLK I2C2_SDA I2C2_SCL /WP +3.3V 24C256		
R6  +3.3V I2C2_SDA 5.6K		
R5  +3.3V I2C2_SCL 5.6K		
R4  +3.3V /WP 10K		
R2  +3.3V /A1 4.7K		
R3  +3.3V /A0 4.7K		
R1  +3.3V /A2 4.7K		
P1  /WP WP		
S2  CLK N-000043 CLK N-000043 SMT_BUTTON		
SJ4  /A2 CLK SOLDERJUMPERNC2		
SJ5  /A1 CLK SOLDERJUMPERNC2		
P7  +3.3V 3V3		
P5  CLK GND		
SJ7  UARTBT_CTS N-000032 BT_CTS		
SJ2  UARTBT_RX N-000024 BT_RX		
SJ8  N-000028 UARTBT_RTS BT_RTS		
SJ6  N-000027 UARTBT_TX BT_TX		
P10  /CS_EXP1 /DRDY CLK START ? CONN_5		
*Sheet Name:/BrainBoard Analog In/
C21  AIN8P CLK 4.7nF		
C22  AIN7P CLK 4.7nF		
C23  AIN6P CLK 4.7nF		
C24  AIN5P CLK 4.7nF		
C25  AIN4P CLK 4.7nF		
C26  AIN3P CLK 4.7nF		
C27  AIN2N CLK 4.7nF		
C28  AIN1N CLK 4.7nF		
R14  /BrainBoard Analog In/CH8ELEC_P AIN8P 4.99K		
R15  /BrainBoard Analog In/CH7ELEC_P AIN7P 4.99K		
R16  /BrainBoard Analog In/CH6ELEC_P AIN6P 4.99K		
R17  /BrainBoard Analog In/CH5ELEC_P AIN5P 4.99K		
R18  /BrainBoard Analog In/CH4ELEC_P AIN4P 4.99K		
R19  /BrainBoard Analog In/CH3ELEC_P AIN3P 4.99K		
R20  /BrainBoard Analog In/CH2ELEC_P AIN2N 4.99K		
R22  /BrainBoard Analog In/CH1ELEC_P AIN1N 4.99K		
C18  +2.5V -2.5V 0.1uF		
C17  +2.5V -2.5V 0.1uF		
R11  /BrainBoard Analog In/BIAS_SHD SHIELD 4.99K		
C20  REF CLK 4.7nF		
R13  /BrainBoard Analog In/REF_ELEC REF 4.99K		
R12  /BrainBoard Analog In/BIAS_ELEC BIAS 4.99K		
C19  +2.5V -2.5V 0.1uF		
U5  /BrainBoard Analog In/CH2ELEC_P -2.5V /BrainBoard Analog In/CH2ELEC_N /BrainBoard Analog In/CH1ELEC_P +2.5V /BrainBoard Analog In/CH1ELEC_N TPD4E001DBV		
U6  /BrainBoard Analog In/CH5ELEC_P -2.5V /BrainBoard Analog In/CH6ELEC_P /BrainBoard Analog In/CH3ELEC_P +2.5V /BrainBoard Analog In/CH4ELEC_P TPD4E001DBV		
P2  /BrainBoard Analog In/CH1ELEC_N /BrainBoard Analog In/CH1ELEC_P /BrainBoard Analog In/CH2ELEC_N /BrainBoard Analog In/CH2ELEC_P /BrainBoard Analog In/CH3ELEC_P /BrainBoard Analog In/CH4ELEC_P /BrainBoard Analog In/CH5ELEC_P /BrainBoard Analog In/CH6ELEC_P /BrainBoard Analog In/CH7ELEC_P /BrainBoard Analog In/CH8ELEC_P /BrainBoard Analog In/REF_ELEC /BrainBoard Analog In/BIAS_ELEC /BrainBoard Analog In/BIAS_SHD ? CONN_14		
R23  /BrainBoard Analog In/CH1ELEC_N AIN1N 4.99K		
R21  /BrainBoard Analog In/CH2ELEC_N AIN2N 4.99K		
U7  /BrainBoard Analog In/BIAS_ELEC -2.5V /BrainBoard Analog In/REF_ELEC /BrainBoard Analog In/CH7ELEC_P +2.5V /BrainBoard Analog In/CH8ELEC_P TPD4E001DBV		
*Sheet Name:/BrainBoard MCU/
U8  CLK ? /CS_EXP1 /BrainBoard MCU/TDI SYS_RESETn /CS MISO MOSI ? UARTUC_TX /BrainBoard MCU/TCK I2C2_SDA /BrainBoard MCU/TDO /BrainBoard MCU/TMS UARTUC_RX SCLK +3.3V +3.3V CLK /DRDY /RESET /BrainBoard MCU/RESET_MCU ? ? /PWDN ? ? I2C2_SCL UARTBT_CTS UARTBT_TX UARTBT_RX UARTBT_RTS CLK +3.3V +3.3V UARTUC_RTS ? ? UARTUC_CTS ? START +3.3V CLK RESET_BT CLK IMU_INT ? +3.3V ATUC3L064		
C33  +3.3V CLK 0.1uF		
C34  +3.3V CLK 0.1uF		
C32  +3.3V CLK 10uF		
C31  +3.3V CLK 0.1uF		
C30  +3.3V CLK 2.2uF		
P3  /BrainBoard MCU/TCK CLK /BrainBoard MCU/TDO +3.3V /BrainBoard MCU/TMS /BrainBoard MCU/RESET_MCU ? ? /BrainBoard MCU/TDI CLK CONN_5X2		
C35  +3.3V CLK 0.1uF		
C29  +3.3V CLK 0.1uF		
*Sheet Name:/BrainBoard Bluetooth/
U9  CLK ? ? ? RESET_BT ? ? ? ? ? +3.3V CLK UARTBT_TX UARTBT_RX UARTBT_CTS UARTBT_RTS ? ? /BrainBoard Bluetooth/STATUS ? /BrainBoard Bluetooth/STATUSn /BrainBoard Bluetooth/FACTORY ? ? CLK ? CLK CLK CLK ? ? ? ? ? ? BLUETOOTH-RN42		
R26  /BrainBoard Bluetooth/FACTORY CLK 10K		
P4  /BrainBoard Bluetooth/FACTORY BTRST		
R24  N-000163 CLK 330		
R25  N-000161 CLK 330		
D1  /BrainBoard Bluetooth/STATUSn N-000163 RED		
D2  /BrainBoard Bluetooth/STATUS N-000161 GREEN		
*Sheet Name:/BrainBoard Power/
U12  CLK -3.3V -3.3V N-000171 -2.5V TPS72325		
U11  +3.3V CLK +3.3V N-000170 +2.5V TPS73225		
C38  N-000172 N-000173 1uF		
P6  -3.3V -3V3		
C37  +3.3V CLK 1uF		
C36  +3.3V CLK 10uF		
U10  -3.3V +3.3V N-000173 CLK N-000172 TPS60403		
C40  -3.3V CLK 1uF		
C39  -3.3V CLK 10uF		
C41  +3.3V CLK 1uF		
C47  N-000171 CLK 0.01uF		
C42  N-000170 CLK 0.01uF		
C44  +2.5V CLK 2.2uF		
C43  +2.5V CLK 10uF		
C49  -2.5V CLK 2.2uF		
C48  -2.5V CLK 10uF		
P8  +2.5V +2V5		
P9  -2.5V -2V5		
C46  -3.3V CLK 1uF		
C45  +2.5V -2.5V 0.1uF		
*Sheet Name:/BrainBoard AFE/
U4  /BrainBoard AFE/SRB1 AIN8P /BrainBoard AFE/SRB1 AIN7P /BrainBoard AFE/SRB1 AIN6P /BrainBoard AFE/SRB1 AIN5P /BrainBoard AFE/SRB1 AIN4P /BrainBoard AFE/SRB1 AIN3P AIN2N AIN2N AIN1N AIN1N /BrainBoard AFE/SRB1 /BrainBoard AFE/SRB2 +2.5V -2.5V +2.5V +2.5V -2.5V /BrainBoard AFE/VREFP -2.5V /BrainBoard AFE/VCAP4 ? /BrainBoard AFE/VCAP1 ? /BrainBoard AFE/VCAP2 CLK -2.5V CLK MOSI /PWDN /RESET CLK START /CS SCLK CLK ? MISO ? ? ? /DRDY +3.3V CLK +3.3V CLK CLKSEL -2.5V +2.5V /BrainBoard AFE/VCAP3 +2.5V -2.5V -2.5V +2.5V ? BIASINV BIAS BIAS ? ADS1299		
U3  SHIELD SHIELD BIAS -2.5V N-000176 /BrainBoard AFE/SRB1 /BrainBoard AFE/SRB1 +2.5V OPA2376		
C4  /BrainBoard AFE/VCAP4 -2.5V 1uF		
C5  /BrainBoard AFE/VCAP3 -2.5V 1uF		
C6  /BrainBoard AFE/VCAP3 -2.5V 0.1uF		
C7  /BrainBoard AFE/VCAP2 -2.5V 1uF		
C8  /BrainBoard AFE/VCAP1 -2.5V 100uF		
C3  -2.5V /BrainBoard AFE/VREFP 10uF		
C9  +2.5V -2.5V 1uF		
C11  +2.5V -2.5V 0.1uF		
C13  +2.5V -2.5V 1uF		
C15  +2.5V -2.5V 0.1uF		
C10  +2.5V CLK 1uF		
C12  +2.5V CLK 0.1uF		
C14  +3.3V CLK 1uF		
C16  +3.3V CLK 0.1uF		
R7  +3.3V /CS 10K		
R8  +3.3V /PWDN 10K		
R10  +3.3V /RESET 10K		
R9  BIAS BIASINV 499K,0.1%		
C2  BIASINV BIAS 1nF		
SJ3  BIAS BIASINV SOLDERJUMPERNO		
SJ1  /BrainBoard AFE/SRB2 N-000176 REF SOLDERJUMPER_2WAYPASTE2&3		
C1  +2.5V CLK 0.1uF		
C50  -2.5V CLK 0.1uF		
R27  +3.3V CLKSEL 10K		
*Sheet Name:/BrainBoard IMU/
U13  CLK ? ? +3.3V /BrainBoard IMU/AD0 /BrainBoard IMU/REGOUT CLK IMU_INT +3.3V CLK ? /BrainBoard IMU/CPOUT ? ? I2C2_SCL I2C2_SDA MPU6050		
C54  +3.3V CLK 0.01uF		
C51  +3.3V CLK 0.1uF		
C52  /BrainBoard IMU/REGOUT CLK 0.1uF		
C53  /BrainBoard IMU/CPOUT CLK 2.2nF		
SJ9  +3.3V /BrainBoard IMU/AD0 CLK I2C Address Select (2&3NC)		

.end
